US04663344
3-Hydroxy-2-(p-methoxyphenyl)-5-trifluoromethylbenzo[b]thiophene
To a mixture of sodium hydride (50% dispersion in mineral oil) (134 mg, 2.79 mmol) in N,N-dimethylformamide (3 ml) at 75° C. under a nitrogen atmosphere was added dropwise with stirring a solution of methyl 2-(p-methoxybenzylthio)-5-trifluoromethylbenzoate (500 mg, 1.40 mmol) in N,N-dimethylformamide (10 ml). After stirring 30 minutes at 75° C., the mixture was poured into water (50 ml), the mixture brought to pH5 with 2N hydrochloric acid, the product extracted with diethyl ether, the combined extracts washed with water, dried (sodium sulfate), and evaporated. The residue was chromatographed on a column of silica gel (Merck 7734, packed as a slurry in 25:1 hexane-ether). Elution with 25:1 hexane-ether containing 1% acetic acid afforded the desired product as a white solid upon evaporation of the appropriate fractions; yield 385 mg (85%); m/z 324 (M+.).

reactant | sodium hydride | 2.79 mmol, 134 mg | [H-].[Na+]
reactant | methyl 2-(p-methoxybenzylthio)-5-trifluoromethylbenzoate | 1.40 mmol, 500 mg | COC1=CC=C(CSC2=C(C(=O)OC)C=C(C=C2)C(F)(F)F)C=C1 | C17H15F3O3S
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Hydroxy-2-(p-methoxyphenyl)-5-trifluoromethylbenzo[b]thiophene | OC=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC(=C2)C(F)(F)F | C16H11F3O2S
